* dcenter_demo -- Enhancement-206: design centering / yield optimization
*
* A minimal design-centering problem with a KNOWN optimal centre. The output
* voltage has a nominal design centre `xc` (the design knob the optimizer moves)
* plus zero-mean Gaussian process variation:  vo ~ N(xc, 0.5)  [agauss(m,v,3) makes
* the actual sigma = v/3 = 0.5]. The spec window is [4, 6] V, so the yield/Cpk is
* maximized when the distribution is centred at the midpoint, xc = 5.
*
* `optimize -center` runs the OUTER optimizer over xc; at each candidate it runs an
* INNER Monte Carlo of `-samples` draws (each `reset` re-samples agauss around the
* current xc), scores the worst-case Cpk across the specs, and drives it up. With
* `-lhs` the stratified sample-mean is ~0, so it lands right on xc = 5 (Cpk = 0.667).
.param xc = 4.0                       ; start off-centre
.param vo = agauss(xc, 1.5, 3)        ; output = centre + N(0, 0.5) process variation
V1 out 0 dc {vo}
R1 out 0 1k
.control
  * off-centre baseline yield (~50%, since xc=4 sits at the spec edge)
  montecarlo 200 -lhs -analysis op -spec v(out) -max 6 -min 4 -seed 3
  * centre the design: maximize worst-case Cpk / yield under the process variation
  optimize -dparam xc 4.0 3 7 -center -lhs -samples 200 -analysis op -spec v(out) -max 6 -min 4 -seed 3
  print xc dcenter_yield dcenter_cpk
.endc
.end
